US05143633
EXAMPLE I: p-Dodecylaniline/molybdenum complex
The procedure is as in Example A, but an aqueous solution containing 48.4 g of sodium molybdate is acidified with 65.4 g of 30% sulphuric acid. While the solution is kept at 60° C., 52.2 g of p-dodecylaniline are added.

reactant | sodium molybdate | 48.4 g | [O-][Mo](=O)(=O)[O-].[Na+].[Na+]
reactant | sulphuric acid | 65.4 g | S(O)(O)(=O)=O | H2O4S
reactant | p-dodecylaniline | 52.2 g | C(CCCCCCCCCCC)C1=CC=C(N)C=C1 | C18H31N
product | p-Dodecylaniline molybdenum | C(CCCCCCCCCCC)C1=CC=C(N)C=C1.[Mo] | InChI=1S/C18H31N.Mo/c1-2-3-4-5-6-7-8-9-10-11-12-17-13-15-18(19)16-14-17;/h13-16H,2-12,19H2,1H3;
